US07598248B2
tert-butyl 5-bromo-2-oxo-3-(pentan-3-yl)-2,3-dihydroimidazo[4,5-b]pyrazine-1-carboxylate.
To a solution of 6-bromo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyrazin-2-ol (5.0 g, 17.6 mmol) in DCM (80 mL) containing triethylamine (7.34 mL, 52.8 mmol) was added Boc2O (7.0 g, 35 mmol). The reaction mixture was stirred at room temperature overnight, washed with NaHCO3 solution, dried over Na2SO4 and concentrated in vacuo. Purification over silica gel (Biotage MPLC 10-50% EtOAc/hexanes) gave the desired product as a white solid (1.7 g, 25%).

reactant | 6-bromo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyrazin-2-ol | 17.6 mmol, 5.0 g | BrC1=CN=C2C(=N1)N(C(=N2)O)C(CC)CC | C10H13BrN4O
reactant | triethylamine | 52.8 mmol, 7.34 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 35 mmol, 7.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-bromo-2-oxo-3-(pentan-3-yl)-2,3-dihydroimidazo[4,5-b]pyrazine-1-carboxylate | 1.7 g, 25% | BrC=1N=C2C(=NC1)N(C(N2C(CC)CC)=O)C(=O)OC(C)(C)C | C15H21BrN4O3
